US07498433B2
Preparation of 2,4-bis(4-methyl-1-piperazinyl)-3-propylidene-3H-[1,5]benzodiazepine (III)
To a suspension of 1-[2,4-bis(4-methyl-1-piperazinyl)-3H-[1,5]benzodiazepin-3-yl]-1-propanol (1.195 g, 3 mmol), triethylamine (2.50 ml, 18 mmol) and pyridine (0.024 ml, 0.3 mmol) in tetrahydrofuran (10 ml) under constant flow of argon, at 0° C., a solution of trifluoroacetic anhydride (1.26 ml, 9 mmol) in tetrahydrofuran (5 ml) was added dropwise. The reaction mixture was stirred for another hour at 0° C. Methanol (5 ml) was added. The solution was allowed to warm to 10° C., while strongly agitated NaOH (1 M, 20 ml) was added dropwise. Dichloromethane (30 ml) was added and the phases were separated. The organic phase was dried over anhydrous Na2SO4 and the solvent was evaporated at reduced pressure. The crude product was suspended in isopropyl ether (8 ml) and filtered off. The filtrate was evaporated at reduced pressure to give 0.971 g (84%) of the title compound as a yellow resin. The product obtained was characterized using 1H-NMR spectroscopy and was found to be identical to the product obtained by method A.

reactant | 1-[2,4-bis(4-methyl-1-piperazinyl)-3H-[1,5]benzodiazepin-3-yl]-1-propanol | 3 mmol, 1.195 g | CN1CCN(CC1)C=1C(C(=NC2=C(N1)C=CC=C2)N2CCN(CC2)C)C(CC)O | C22H34N6O
reactant | triethylamine | 18 mmol, 2.50 ml | C(C)N(CC)CC | C6H15N
reactant | pyridine | 0.3 mmol, 0.024 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 9 mmol, 1.26 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | NaOH | 1 M, 20 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | Dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | Methanol | 5 ml | CO | CH4O
product | 2,4-bis(4-methyl-1-piperazinyl)-3-propylidene-3H-[1,5]benzodiazepine | 0.971 g, 84% | CN1CCN(CC1)C=1C(C(=NC2=C(N1)C=CC=C2)N2CCN(CC2)C)=CCC | C22H32N6
